Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Acute Renal Failure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo make with history of severe COPD (on 4L 
home O2), and DM2 recently hospitalized at ___ ___ for 
respiratory failure related to COPD exacerbation, and recently 
hospitalized at ___ for pulmonary embolus 
who was referred to ED from rehab for blood tinged sputum. 
Patient reports that for the last week he has had increased 
cough, sore throat, rhinorrhea and headache which is now nearly 
resolved. He noticed that over the past three days his sputum 
has been blood tinged. Per the nursing home referral note 
patient was treated for RLL pneumonia (dx by CXR) with levaquin 
500mg from ___. He reports that at baseline he coughs up a 
significant amount of yellowish sputum but not usually blood 
tinged. Notably, he has had about two nose bleeds over the last 
few days but no other episodes of spontaneous bleeding. Overall, 
he reports that he feels well and is in his usual state of 
health at this time. He denies any chest pain, worsening of his 
chronic shortness of breath, abdominal pain, diarrhea, or 
dysuria. He reports that his oral intake and urine output have 
been normal.  
.  
In the ED, initial VS were: T 98.3 BP 149/70 HR 93 RR 20 O2 Sat 
100 on 2L. CXR did not show any acute findings. CT chest was 
negative for any masses, consolidation or edema. Patient was 
noted to have ARF and hyperkalemia. ECG was unremarkable. He 
received D50/Insulin and kayexalate for the hyperkalemia and K 
went from 6.6 to 5. He also received a 500cc NS bolus. At time 
of transfer vitals were T 98 BP 126/63 RR 18 O2Sat 98% on 2L.  

 
Past Medical History:
1. Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  
2. Chronic Systolic CHF: TTE ___ LVEF>55%, although patient 
denies this  
3. Gastritis/GERD  
4. h/o SBO  
5. Tobacco Abuse: Previous 5PPD, now ___ cigs/day  
6. Diabetes Mellitus type 2 
7. Diverticulosis  
8. C6-C7 HERNITATION  
9. B12 Deficiency- on monthly injections 
10. Obesity with possible OSA, but pt refuses sleep study or 
CPAP  
11. Psoriasis  
12. Hypertension  
13. Glaucoma  
14. LLE cellulitis ___  
 
Social History:
___
Family History:
Mother - died of lung cancer in ___
Father - died of lung cancer in ___
Sister- died of lung cancer in ___

 
Physical Exam:
Vitals: T: 96.5 BP:130/68 P:82 R:18 O2:99 on 2L  
General: Cushingoid appearing obese male,Alert, oriented, no 
acute distress, sitting on side of bed, appears short of breath 
during conversation  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: obese supple, JVP not elevated, no LAD  
Lungs: Diminshed anterior and posterior breath sounds 
bilaterally  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, 1+ pitting edema in 
bilateral ___  
Skin: psoriatic plaques on both elbow, chronic venous stasis 
changes on L shin  
Neuro: AOx3, CN II-XII grossly intact, ___ strength in all 4 ext 
 

 
Pertinent Results:
___ 06:50PM   GLUCOSE-346* UREA N-57* CREAT-1.6* SODIUM-136 
POTASSIUM-6.6* CHLORIDE-100 TOTAL CO2-31 ANION GAP-12
___ 06:45AM   GLUCOSE-47* UREA N-51* CREAT-1.1 SODIUM-142 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-33* ANION GAP-9
___ 06:45AM   WBC-10.6 RBC-3.30* HGB-9.1* HCT-28.4* MCV-86 
MCH-27.6 MCHC-32.0 RDW-14.4
___ 06:45AM   PLT COUNT-204
___ 06:45AM   ___ PTT-28.7 ___
 
Brief Hospital Course:
Mr. ___ was admitted due to acute renal failure which was 
discovered after being sent to the Emergency Department for 
concerns of hemoptysis.  He had a CT chest which was negative 
and given the small volumes produced this is likely related to 
his PE and anticoagulation.  He was given a small fluid bolus 
(500mL) and his renal function improved.  His lasix dose was 
decreased from 80mg daily to 60mg daily.
This is a ___ yo male with severe COPD, DMII, obesity, recently 
diagnosed PE presenting with hemoptysis and incidentally found 
to have acute renal failure and hyperkalemia.  
.  
# Hemoptysis: Pt was sent to ED for hemoptysis.  Given the small 
quantity of blood tinged sputum and the known PE in the setting 
of anticoagulation along with the negative CT chest concern for 
new pathology low.  If develops more bleeding should follow up 
with PCP or return to ED.
.  
# ARF: Cr 1.6 up from baseline, but after holding lasix and 
given small fluid bolus 500mL Cr returned to baseline.
.
# Hyperkalemia: Resolved with insulin/glucose/kayexolate and 
fluids given in ED.  
.  
# Severe COPD, FEV 20% predicted: He is oxygenating well on 
baseline 4L via NC. No evidence of COPD exacerbation at this 
time.  Continued on outpatient reg..  
.
# H/O Pulmonary Embolus: INR therapeutic.  
- cont coumadin 6mg daily  
.  
# Leukocytosis: WBC ct of 12,000 though afebrile, benign UA and 
no other clinical evidence of infectious process on admission.  
On re-eval 10,000 (WNL).   
.  
# DM II: Per nursing home notes patient has had episodes of 
hypoglycemia with regular insulin sliding scale. Was maintained 
on insulin and should resume his regular medications upon 
discharge. 
.  
# Hypertension: BP well controlled.  Lisinopril was held for one 
dose in the setting of ARF but should be restarted on discharge.
.  
# Anemia: cont ferrous sulfate  
.  
# Glaucoma: Cont outpt eye drops  

 
Medications on Admission:
Xalatan 0.005% 1 drop both eyes QHS  
Vit B12 1000mcg monthly (last dose ___  
Ferrous sulfate 325mg daily  
Flonase spray daily  
Lasix 80mg daily  
Prinivil 40mg daily  
Mag Oxide 400mg Po daily  
Humalog per SS  
Duonebs QID  
Warfarin 6mg daily  
Fosamax 70mg PO weekly  
Norvasc 10mg daily  
ASA 325mg daily  
Calcium 500mg daily  
MVI daily  
NS spay QID  
Prednisone 20mg daily  
Glyburide 10mg daily  
Spiriva 1 cap daily  
Colace 100mg BID  
Brimonidine 0.2% 1 drop both eyes daily  
Senna 2 tabs qhs  
Zocor 5mg PO QHS  
Advair  

 
Discharge Medications:
1. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
2. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
4. Warfarin 6 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
5. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

6. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
8. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed for dryness.  
10. Prednisone 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Insulin Lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous ASDIR (AS DIRECTED).  
12. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic Q8H 
(every 8 hours).  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

16. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime). 
 
17. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Two (2) 
Puff Inhalation Q6H (every 6 hours).  
18. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours).  
19. Lasix 20 mg Tablet Sig: Three (3) Tablet PO once a day.  
20. Prinivil 40 mg Tablet Sig: One (1) Tablet PO once a day.  
21. Glyburide 5 mg Tablet Sig: Two (2) Tablet PO once a day.  
22. Zocor 5 mg Tablet Sig: One (1) Tablet PO at bedtime.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Acute Renal Failure
.
Secondary:
COPD
CHF
DM
Pulmonary Emoblism
HTN
Glaucoma

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted to ___ with acute renal failure which 
returned to baseline after a small amount of IV fluids.  We 
decreased your lasix to 60mg daily.  You had also coughed up 
some blood streaked sputum which may be related to your 
pulmonary embolism and anticoagulation. If you cough up more 
blood you should either contact your primary care physician or 
go to the Emergency Room.  Weigh yourself every morning, call MD 
if weight goes up more than 3 lbs.
 
Followup Instructions:
___